US09108956B2
Step 6. Synthesis of benzyl 2-(5-(4′-(2-methyl-5-(trifluoromethyl)oxazole-4-carboxamido)-[1,1′-biphenyl]-4-yl)tetrahydro-2H-pyran-2-yl)acetate
To a solution of benzyl 2-(5-(4′-amino-[1,1′-biphenyl]-4-yl)tetrahydro-2H-pyran-2-yl)acetate (118 mg, 0.294 mmol) in DMF (2 ml) at room temperature was added 2-methyl-5-(trifluoromethyl)oxazole-4-carboxylic acid (74.5 mg, 0.382 mmol) and DIPEA (0.103 ml, 0.588 mmol) and the reaction was stirred at room temperature for 10 min then was added HATU (145 mg, 0.382 mmol). The reaction was stirred at room temperature for 30 min. The reaction was quenched by brine and was extracted with EtOAc. The combined organic layer was washed with brine and dried over anhydrous sodium sulfate, filtered and concentrated. The residue was purified by flash chromatography (10 to 50% EtOAc/Heptane) to give the title compound 138 mg (yield 81%). MS (ESI) m/z 579.4 (M+1). Retention time 1.69 min (condition A).

reactant | benzyl 2-(5-(4′-amino-[1,1′-biphenyl]-4-yl)tetrahydro-2H-pyran-2-yl)acetate | 0.294 mmol, 118 mg | NC1=CC=C(C=C1)C1=CC=C(C=C1)C1CCC(OC1)CC(=O)OCC1=CC=CC=C1 | C26H27NO3
reactant | 2-methyl-5-(trifluoromethyl)oxazole-4-carboxylic acid | 0.382 mmol, 74.5 mg | CC=1OC(=C(N1)C(=O)O)C(F)(F)F | C6H4F3NO3
reactant | DIPEA | 0.588 mmol, 0.103 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.382 mmol, 145 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | benzyl 2-(5-(4′-(2-methyl-5-(trifluoromethyl)oxazole-4-carboxamido)-[1,1′-biphenyl]-4-yl)tetrahydro-2H-pyran-2-yl)acetate | 138 mg, yield 81% | CC=1OC(=C(N1)C(=O)NC1=CC=C(C=C1)C1=CC=C(C=C1)C1CCC(OC1)CC(=O)OCC1=CC=CC=C1)C(F)(F)F | C32H29F3N2O5
